US06420400B1
Synthesis of 5-(N-myristyl-N-phenylamino)-1,2,3-thiadiazole-4-carboxamide
To an ice-cooled suspension of NaH (19 mg, 60 wt % in oil, 0.46 mmole) in 3 mL of DMF was added 5-(N-phenylamino)-1,2,3-thiadiazole-4-carboxamide (100 mg, 0.46 mmole). The mixture was stirred at room temperature for 1 h. 1-Bromotetradecane (131 mg, 0.47 mmole) was then added to the reaction mixture which was cooled in ice bath. The reaction was carried out overnight with stirring and then quenched with a mixture of 5 mL of saturated aqueous NH4Cl 5 mL of saturated aqueous NaCl and 10 mL EtOAc. The aqueous layer was extracted with EtOAc (2×10 mL). The combined organic layers were dried with anhydrous Na2SO4, concentrated and then purified by preparative TLC with hexane-EtOAc (1:1) as the eluant. A white powder product was obtained (122 mg, 66%). m.p. 79-81° C. 1H NMR (ppm, CDCl3): 7.60-7.44 (m, 5H), 7.20 (s, br., 1H), 5.63 (s, br., 1H), 2.96 (t, 2H), 1.43-1.00 (m, 24H), 0.88 (t, 3H). FTIR (cm−1, KBr pellet): 3386, 3299, 2918, 2851, 1674, 1657, 1600, 1527, 1503, 1384, 1299, 999, 766, 743, 693.

reactant | NaH | 0.46 mmole, 19 mg | [H-].[Na+]
reactant | 5-(N-phenylamino)-1,2,3-thiadiazole-4-carboxamide | 0.46 mmole, 100 mg | C1(=CC=CC=C1)NC1=C(N=NS1)C(=O)N | C9H8N4OS
reactant | 1-Bromotetradecane | 0.47 mmole, 131 mg | BrCCCCCCCCCCCCCC | C14H29Br
reactant | KBr | [K+].[Br-]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 5-(N-myristyl-N-phenylamino)-1,2,3-thiadiazole-4-carboxamide | C(CCCCCCCCCCCCC)N(C1=CC=CC=C1)C1=C(N=NS1)C(=O)N | C23H36N4OS
